US08466186B2
N-{4-Chloro-3-[6-chloro-5-(3,3-difluoropyrrolidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-2,2-dimethyl-propionamide
4-Chloro-5-(3,3-difluoropyrrolidin-1-yl)benzene-1,2-diamine dihydrochloride (340 mg, 1.1 mmol) was added to N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide (300 mg, 1.1 mmol) in MeCN (10 mL) and stirred at rt overnight. After addition of DIPEA (0.41 μL, 2.3 mmol) the reaction mixture was stirred at rt for 4.5 h. The mixture was concentrated. The crude was purified by chromatography to give the sub-title compound.

reactant | 4-Chloro-5-(3,3-difluoropyrrolidin-1-yl)benzene-1,2-diamine dihydrochloride | 1.1 mmol, 340 mg | Cl.Cl.ClC=1C=C(C(=CC1N1CC(CC1)(F)F)N)N
reactant | N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide | 1.1 mmol, 300 mg | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2OS
reactant | DIPEA | 2.3 mmol, 0.41 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 10 mL | CC#N | C2H3N
product | N-{4-Chloro-3-[6-chloro-5-(3,3-difluoropyrrolidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC1=NC2=C(N1)C=C(C(=C2)N2CC(CC2)(F)F)Cl | C23H25Cl2F2N5O
